US07268133B2
To a suspension of 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidine I-2A-1c (40 mg, 0.1 mmol) in 5 ml ethanol was added pyrrolidine (711 mg, 10 mmol). The reaction mixture was stirred at room temperature for 1 hour and became homogeneous. After the reaction was complete (as monitored by TLC, ethyl acetate/hexane, 50/50), ethanol was removed under reduced pressure. The residue was redissolved in ethyl acetate, washed with water, dried over magnesium sulfate, and concentrated. The crude product was purified by HPLC to give 3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-pyrrolidin-1-yl-2H-pyrazolo[4,3-d]pyrimidine 2A-1 (17 mg, 38.2%). MS: 410.2 (M+1)+; 1H NMR (400 MHz, CD2Cl2) δ 8.3 (s, 1H), 7.5 (m, 6H), 7.3 (d, J=8.7 Hz, 2H), 4.2 (t, J=6.3 Hz, 2H), 3.8 (t, J=7.1 Hz, 2H), 2.1 (m, 4H).

reactant | 7-chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidine | 0.1 mmol, 40 mg | ClC=1C=2C(N=CN1)=C(N(N2)C2=C(C=CC=C2)Cl)C2=CC=C(C=C2)Cl | C17H9Cl3N4
reactant | pyrrolidine | 10 mmol, 711 mg | N1CCCC1 | C4H9N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-pyrrolidin-1-yl-2H-pyrazolo[4,3-d]pyrimidine | 17 mg, 38.2% | ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN=C2N2CCCC2)C2=C(C=CC=C2)Cl | C21H17Cl2N5
